US04210758
Diethyl{[(2-oxo-2H-1-benzopyran-3-yl)amino]methylene}malonate
A mixture of 3-aminocoumarin (30.0 g, 0.186 mole) and diethyl ethoxymethylenemalonate (75.0 g, 0.347 mole) is heated at 120° C. for 4 hours under nitrogen. The reaction mixture is cooled and triturated with hexane. The product is filtered off and washed with hexane. Recrystallization from ethyl acetate gives white crystals (55.0 g, 89%), mp. 134-135.

reactant | 3-aminocoumarin | 0.186 mole, 30.0 g | NC=1C(OC2=CC=CC=C2C1)=O | C9H7NO2
reactant | diethyl ethoxymethylenemalonate | 0.347 mole, 75.0 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl{[(2-oxo-2H-1-benzopyran-3-yl)amino]methylene}malonate | 55.0 g, 89% | C(C)OC(C(C(=O)OCC)=CNC=1C(OC2=C(C1)C=CC=C2)=O)=O | C17H17NO6
